US04489003
A mixture of 10.37 g (0.03 mol) of ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 35 ml of hydroxymethyl-cyclopropane and 0.5 g of potassium cyanide is stirred at 125° for 12 hours, during this time three 2-3 ml portions of the solvent being distilled off by the application of a slight vacuum. The mixture is subsequently evaporated in vacuo, the residue is partitioned between chloroform and water, the chloroform solution is washed successively with water and saturated sodium chloride solution, dried over magnesium sulphate and evaporated. The residue obtained is recrystallized from ethyl acetate, there being obtained cyclopropylmethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 195°-196 °.

reactant | ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 0.03 mol, 10.37 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC)CCC1)=O | C17H16ClN3O3
reactant | hydroxymethyl-cyclopropane | 35 ml | OCC1CC1 | C4H8O
reactant | potassium cyanide | 0.5 g | [C-]#N.[K+]
product | cyclopropylmethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC3CC3)CCC1)=O | C19H18ClN3O3
